US04364875
2-Chloro-4-nitro-3-phenoxy-1-(4-cyano-phenoxy)-benzene
A mixture of 14.2 gm of 2,3-dichloro-6-nitro-1-phenoxy-benzene, 6.5 gm of 4-cyano-phenol, 40 ml of dimethylsulfoxide and 50 ml of 10 N sodium hydroxide was stirred for 3 hours at 100° C. Thereafter, the reaction mixture was diluted with water, the aqueous mixture was extracted with chloroform, the organic extract solution was dried, and the chloroform was distilled off. The residue was purified by passing it through a silicagel column and recrystallizing it from ethanol, yielding 11 gm (60.2% of theory) of the colorless crystalline title compound, m.p. 140°-142° C.

reactant | 2,3-dichloro-6-nitro-1-phenoxy-benzene | 14.2 gm | ClC1=C(C(=CC=C1Cl)[N+](=O)[O-])OC1=CC=CC=C1 | C12H7Cl2NO3
reactant | 4-cyano-phenol | 6.5 gm | C(#N)C1=CC=C(C=C1)O | C7H5NO
reactant | dimethylsulfoxide | 40 ml | CS(=O)C | C2H6OS
reactant | sodium hydroxide | 10 N, 50 ml | [OH-].[Na+]
solvent | water | O | H2O
product | 2-Chloro-4-nitro-3-phenoxy-1-(4-cyano-phenoxy)-benzene | ClC1=C(C=CC(=C1OC1=CC=CC=C1)[N+](=O)[O-])OC1=CC=C(C=C1)C#N | C19H11ClN2O4
